US09255100B2
N-cyclopropyl-2-methyl-4-{8-[(2-methylpropyl)amino]-6-(1H-pyrazol-5-yl) imidazo[1,2-b]pyridazin-3-yl}benzamide
To a mixture of 125 mg (314 μmol) 4-[6-chloro-8-(isobutylamino)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropyl-2-methylbenzamide, which was prepared according to example 194a, 111 mg (942 μmol) 1H-pyrazol-5-yl boronic acid, 44 mg Tetrakis(triphenylphosphin)palladium in 2 mL of ethanol and 2 mL of toluene was added 0.63 mL of an aqueous 10% sodiumbicarbonate solution and the mixture was stirred at 120° C. for 2 hours under microwave irradiation. Then the mixture was filtered and concentrated and purified by chromatography to give 41 mg of the title compound.

reactant | 4-[6-chloro-8-(isobutylamino)imidazo[1,2-b]pyridazin-3-yl]-N-cyclopropyl-2-methylbenzamide | 314 μmol, 125 mg | ClC=1C=C(C=2N(N1)C(=CN2)C2=CC(=C(C(=O)NC1CC1)C=C2)C)NCC(C)C | C21H24ClN5O
reactant | 1H-pyrazol-5-yl boronic acid | 942 μmol, 111 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | sodiumbicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | N-cyclopropyl-2-methyl-4-{8-[(2-methylpropyl)amino]-6-(1H-pyrazol-5-yl) imidazo[1,2-b]pyridazin-3-yl}benzamide | 41 mg | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)C)C2=CC=NN2)C)=O | C24H27N7O
